US04762835
A solution of 4-fluorobenzaldehyde (49.6 g) in dry dichloromethane (20 cm3) was added to a cooled (0° C.) suspension of powdered aluminium trichloride (90.4 g) in dry dichloromethane (100 cm3). Bromine (70.4 g) was added, and the mixture heated at the reflux temperature of 16 hours. After cooling, the reaction mixture was carefully poured onto ice and extracted with dichloromethane. The combined organic layers were washed with saturated sodium metabisulphite solution, water and brine, then dried over anhydrous magnesium sulphate. Evaporation of the solvent under reduced pressure gave a dark red oil, which was purified by distillation under reduced pressure, using a 4" Vigreux column to give 3-bromo-4-fluorobenzaldehyde (45.7 g) as an oil, boiling point 85°-108° C. at 8 mmHg.

reactant | 4-fluorobenzaldehyde | 49.6 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | aluminium trichloride | 90.4 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Bromine | 70.4 g | BrBr | Br2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | 3-bromo-4-fluorobenzaldehyde | 45.7 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
